US08022063B2
{4-Bromo-2-[2-(2-chloro-4-fluorobenzyl)oxazol-4-yl]phenoxy}acetic acid.
Title compound was prepared from [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester and 2-(2-chloro-4-fluorophenyl)acetamide according to GP5 and GP3: LC/MS (an 10p8) Rt 2.75 min, m/z 440 [M+H]+.

reactant | [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
reactant | 2-(2-chloro-4-fluorophenyl)acetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
product | {4-Bromo-2-[2-(2-chloro-4-fluorobenzyl)oxazol-4-yl]phenoxy}acetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)C=1N=C(OC1)CC1=C(C=C(C=C1)F)Cl | C18H12BrClFNO4
